US07994171B2
tert-butyl 1-(furan-3-yl)cyclopropylcarbamate.
A solution of Boc anhydride (4.9 g, 22.47 mmol, 1.2 eq) and 1-(furan-3-yl)cyclopropanamine (2.3 g, 18.69 mmol, 1.0 eq) in THF (25 ml) was stirred at 0° C., and the stirring was continued at r.t. overnight. The reaction mixture was concentrated, and the crude product was purified by silica gel (60-120) column chromatography using 5% EtOAC/Pet ether as an eluent. Yield: 2.5 g (60%). 1H NMR (400 MHz, CDCl3): δ 7.30 (d, J=3.2, 1H), 7.26 (d, J=3.2, 1H), 6.16 (s, 1H), 5.17 (bs, 1H), 1.44 (s, 9H), 1.16 (s, 2H), 1.03 (s, 2H).

reactant | Boc anhydride | 22.47 mmol, 4.9 g, 1.2 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 1-(furan-3-yl)cyclopropanamine | 18.69 mmol, 2.3 g, 1.0 eq | O1C=C(C=C1)C1(CC1)N | C7H9NO
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-butyl 1-(furan-3-yl)cyclopropylcarbamate | O1C=C(C=C1)C1(CC1)NC(OC(C)(C)C)=O | C12H17NO3
